US08614206B2
Following the procedure for Intermediate 7 starting with 1-(4-amino-1-(2,2-difluoroethyl)-1H-pyrazol-5-yl)azepan-4-ol and 2-bromo-5-(tert-butoxycarbonylamino)-thiazole-4-carboxylic acid afforded tert-butyl 2-bromo-4-(1-(2,2-difluoroethyl)-5-(4-hydroxyazepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate as a colorless solid (265 mg, 69%). 1H NMR (400 MHz, CDCl3) δ 10.39 (s, 1H), 9.14 (s, 1H), 8.02 (s, 1H), 6.18 (tt, J=55.9, 4.5 Hz, 1H), 4.38-4.27 (m, 2H), 3.33-3.12 (m, 5H), 2.20 (br s, 1H), 2.35-1.58 (m, 4H), 1.70-1.48 (m, 2H).

reactant | 1-(4-amino-1-(2,2-difluoroethyl)-1H-pyrazol-5-yl)azepan-4-ol | NC=1C=NN(C1N1CCC(CCC1)O)CC(F)F | C11H18F2N4O
reactant | 2-bromo-5-(tert-butoxycarbonylamino)-thiazole-4-carboxylic acid | BrC=1SC(=C(N1)C(=O)O)NC(=O)OC(C)(C)C | C9H11BrN2O4S
product | tert-butyl 2-bromo-4-(1-(2,2-difluoroethyl)-5-(4-hydroxyazepan-1-yl)-1H-pyrazol-4-ylcarbamoyl)thiazol-5-ylcarbamate | 265 mg, 69% | BrC=1SC(=C(N1)C(NC=1C=NN(C1N1CCC(CCC1)O)CC(F)F)=O)NC(OC(C)(C)C)=O | C20H27BrF2N6O4S
